US04059552
Crosslinked Acrylamide-Sodium Acrylate Copolymer
168 grams of acrylamide, 42 grams of acrylic acid, 63 grams of Na2CO3, 0.21 gram of pentasodium (carboxymethylimino)bis(ethylene-nitrilo)tetraacetic acid (Versenex 80), 0.042 gram of methylene-bisacrylamide, 0.105 gram of sodium metabisulfite and 0.105 gram of tertiary butyl hydroperoxide are dissolved in 1050 grams of deionized water and sufficient sodium hydroxide added thereto to bring the mixture to a pH of 9.5. The resulting solution is mixed with an oil phase consisting of 31.5 grams of acrylic acid and 6.3 grams of a suspending agent, consisting of a chloromethylated polystyrene-dimethylamine reaction product wherein about 5-10 percent of th aromatic rings are aminated, dissolved in 1575 milliliters of xylene. The resulting mixture is sheared at high speed in a Waring Blender for two minutes, placed in an agitated reactor and purged with nitrogen. The temperature of the reaction vessel and contents is raised to 63° C. over a period of one hour and thereafter held at about 52° C for an additional 2.5 hours to complete the polymerization raction. A portion of the resulting slurry is then dewatered by azeotropic distillation and the resulting suspension filtered to separate the copolymer in the form of microbeads. The latter were washed with acetone and dried. The sorptive power of the beads to swell in aqueou fluid was measured and it was found that the copolymer held 82 grams of aqueous 0.27 molar sodium chloride solution per gram of copolymer. To a further 55 gram portion of the above copolymer slurry were added 27.7 milliliters of dimethylamine and then 14.8 grams of paraformaldehyde slurried in a little xylene. The resulting mixture was heated to 40° C. for 1.5 hours, filtered, and dried by acetone extraction to give cationic, cross-linked polyacrylamide microbeads, ranging in size between 0.2 and 4 microns in diameter. The product absorbed 50 grams of aqueous 0.27M NaCl solution per gram of product. The grams of aqueous fluid absorbed and held by one gram of dry polymer beads is hereinafter referred to as the "gel capacity" of the polymer. The product upon being uniformly dispersed in water, quickly thickened the water to give a viscous, "short," pseudo-plastic dispersion.

reactant | acrylamide | 168 grams | C(C=C)(=O)N | C3H5NO
reactant | acrylic acid | 42 grams | C(C=C)(=O)O | C3H4O2
reactant | Na2CO3 | 63 grams | C(=O)([O-])[O-].[Na+].[Na+]
reactant | pentasodium (carboxymethylimino)bis(ethylene-nitrilo)tetraacetic acid | 0.21 gram | C(=O)(O)CN(CCN(CC(=O)O)CC(=O)O)CCN(CC(=O)O)CC(=O)O.[Na].[Na].[Na].[Na].[Na]
reactant | methylene-bisacrylamide | 0.042 gram | C(C=CC(=O)N)C=CC(=O)N | C7H10N2O2
reactant | sodium metabisulfite | 0.105 gram | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | tertiary butyl hydroperoxide | 0.105 gram | C(C)(C)(C)OO | C4H10O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | acrylic acid | 31.5 grams | C(C=C)(=O)O | C3H4O2
solvent | water | 1050 grams | O | H2O
solvent | xylene | 1575 milliliters | C=1(C(=CC=CC1)C)C | C8H10
product | Acrylamide-Sodium Acrylate Copolymer | CCC(CC(C)C(=O)O)C(=O)N | C8H15NO3
